US07807709B2
b. 4-Chloro-3-(3-methoxy-propoxy)-benzoic acid
A solution of 4-chloro-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester (1.58 g, 4.99 mmol) in aqueous 2N NaOH (3.23 mL, 6.48 mmol) and dioxane (10 mL) is stirred at room temperature for 3.5 hrs. The mixture is acidified by addition of 2N HCl, the volatiles are removed by evaporation and the obtained suspension is filtered. The precipitate is washed with ice-cold water and dried in vacuo to give the title compound as white solid. MS: 243.0 [M−H]+. tR (HPLC, Nucleosil C18HD column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.93 min. 1H-NMR (DMSO-d6): δ 2.00 (m, 2H), 3.27 (s, 3H), 3.34 (s, br, 1H), 3.53 (m, 2H), 4.19 (m, 2H), 7.5-7.6 (m, 3H) ppm.

reactant | 4-chloro-3-(3-methoxy-propoxy)-benzoic acid 3-methoxy-propyl ester | 4.99 mmol, 1.58 g | COCCCOC(C1=CC(=C(C=C1)Cl)OCCCOC)=O | C15H21ClO5
reactant | NaOH | 6.48 mmol, 2N, 3.23 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-3-(3-methoxy-propoxy)-benzoic acid | ClC1=C(C=C(C(=O)O)C=C1)OCCCOC | C11H13ClO4
